US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 1 using 4-oxochromane-7-carboxylic acid methyl ester (1.4 g) synthesized according to a known method and sodium borohydride (0.26 g), the objective 4-hydroxychromane-7-carboxylic acid methyl ester (1.5 g) was obtained as a colorless oil.

reactant | 4-oxochromane-7-carboxylic acid methyl ester | 1.4 g | COC(=O)C1=CC=C2C(CCOC2=C1)=O | C11H10O4
reactant | sodium borohydride | 0.26 g | [BH4-].[Na+]
product | 4-hydroxychromane-7-carboxylic acid methyl ester | 1.5 g | COC(=O)C1=CC=C2C(CCOC2=C1)O | C11H12O4
